US07307086B2
3-(Trifluoromethyl)-5,8-dihydro-1,6-naphthyridin-7(6H)-one
To a solution of tert-butyl 7-oxo-3-(trifluoromethyl)-5,6,7,8-tetrahydro-1,6-naphthyridine-8-carboxylate (3.60 g, 11.4 mmol) in methylene chloride (14 mL) was added trifluoroacetic Acid (6.75 mL) and the resulting mixture was stirred at room temperature for 0.5 h. The solution was evaporated under reduced pressure and the residue was dissolved in CH2Cl2. The mixture was neutralized by the slow addition of a solution of saturated NaHCO3 and the organic layer was removed. The aqueous layer was extracted with CH2Cl2 four times, and the combined organic layers were dried over MgSO4, filtered, and evaporated in vacuo to afford 2.45 g (100%) of desired product as a yellow solid. LC-MS calculated for C9H7F3N2O: (M+H)+217; found 217.0.

reactant | tert-butyl 7-oxo-3-(trifluoromethyl)-5,6,7,8-tetrahydro-1,6-naphthyridine-8-carboxylate | 11.4 mmol, 3.60 g | O=C1NCC=2C=C(C=NC2C1C(=O)OC(C)(C)C)C(F)(F)F | C14H15F3N2O3
reactant | trifluoroacetic Acid | 6.75 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 14 mL | C(Cl)Cl | CH2Cl2
product | 3-(Trifluoromethyl)-5,8-dihydro-1,6-naphthyridin-7(6H)-one | 2.45 g, 100% | FC(C=1C=NC=2CC(NCC2C1)=O)(F)F | C9H7F3N2O
